US04224331
A solution of 3,5 dichloro-2-pyridylisothiocyanate (5.13 g.) in benzene (20 ml.) was added to a solution of methylamine in ethanol (5 ml., 33%) and the mixture was stirred for 18 hours at ambient temperature. Petroleum ether (60°-80° C., 30 ml.) was added and the resulting precipitate was filtered off and recrystallised from benzene-light petroleum to give colourless microcrystals of 1-(3,5-dichloro-2-pyridyl)-3-methyl-2-thiourea (4.18 g.) m.pt. 105°-109° C.

reactant | 3,5 dichloro-2-pyridylisothiocyanate | 5.13 g | ClC=1C(=NC=C(C1)Cl)N=C=S | C6H2Cl2N2S
reactant | methylamine | CN | CH5N
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-(3,5-dichloro-2-pyridyl)-3-methyl-2-thiourea | 4.18 g | ClC=1C(=NC=C(C1)Cl)NC(=S)NC | C7H7Cl2N3S
